US05116833
4-[(Chloromethyl)thio]benzylazide
A solution of 4-(methylthio)benzylazide (0.359 g, 2 mmol) in CH2Cl2 was cooled in ice and treated slowly with SO2Cl2 (0.297 g, 2.2 mmol). The reaction mixture was stirred at 5° C. for 1.5 h and then evaporated to dryness. The crude compound was obtained as a yellow oil.

reactant | 4-(methylthio)benzylazide | 2 mmol, 0.359 g | CSC1=CC=C(CN=[N+]=[N-])C=C1 | C8H9N3S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[(Chloromethyl)thio]benzylazide | ClCSC1=CC=C(CN=[N+]=[N-])C=C1 | C8H8ClN3S
